US06391915B2
A mixture of (2S)-1-[N-benzyl-(2-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (362 mg) and 10% Pd/C (50% wet, 100 mg) in ethanol (4 ml) was stirred at room temperature in the presence of hydrogen at an atmospheric pressure for 5 hours and filtered. The filtrate was evaporated in vacuo and the residue was chromatographed (dichloromethane-ethanol) over silica gel (6 g) to afford (2S)-1-[(2-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol (274 mg) as a pale yellow oil. The oil (95 mg) and oxalic acid (20 mg) were dissolved in ethanol and the solution was evaporated in vacuo. The residue was powdered from ether to afford (2S)-1-[(2-ethoxycarbonylmethoxy-6,7,8, 9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol oxalate (1;1) (85 mg) as a colorless powder.

reactant | (2S)-1-[N-benzyl-(2-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 362 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)C1CC2=C(CCC1)C=C(C=C2)OCC(=O)OCC | C31H37NO5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 4 ml | C(C)O | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | (2S)-1-[(2-ethoxycarbonylmethoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amino]-3-phenoxy-2-propanol | 274 mg | C(C)OC(=O)COC=1C=CC2=C(CCCC(C2)NC[C@@H](COC2=CC=CC=C2)O)C1 | C24H31NO5
